US03932465
11.7 Grams of 3-acetyloxymethyl-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid are dissolved in a solution of 18.6 g of guaiacol in 300 ml of trifluoroacetic acid and the mixture is left to stand to 15 minutes at room temperature, then diluted with an equal volume of toluene and evaporated under reduced pressure. The residue is partitioned between ethyl acetate and an aqueous dipotassium hydrogen phosphate buffer solution (pH 7.5) and the layers are separated. The aqueous layer is thoroughly washed with ethyl acetate, its pH then adjusted to 2.5 with 20% aqueous phosphoric acid and again extracted with ethyl acetate. The latter extracts are washed with water and a saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated under reduced pressure. The residue is recrystallised from ethyl acetate to yield the 3-(4-hydroxy-3-methoxy-benzyl)-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid, m.p. 198-199°; thin-layer chromatogram (silica gel): Rf = 0.76 (system n-butanol/acetic acid/water 67:10:23) and Rf = 0.43 (system n-butanol/ethanol/water 40:10:50); ultraviolet absorption spectrum (in methanol): λmax = 235 mμ (ε = 6800) and 282 mμ (ε = 1820); infrared absorption spectrum (in mineral oil): characteristic bands at 2,85μ, 2,99μ, 5,67μ, 5.74μ and 6.56μ. It is possible to obtain a further amount of the desired product from the mother liquor via the diphenylmethyl ester.

reactant | 3-acetyloxymethyl-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid | C(C)(=O)OCC1=C(S[C@H]2N(C1C(=O)O)C([C@H]2C(CC2=CC=CC=C2)=O)=O)N | C18H18N2O6S
reactant | guaiacol | 18.6 g | C=1(C(O)=CC=CC1)OC | C7H8O2
solvent | trifluoroacetic acid | 300 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(4-hydroxy-3-methoxy-benzyl)-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid | OC1=C(C=C(CC2=C(S[C@H]3N(C2C(=O)O)C([C@H]3C(CC3=CC=CC=C3)=O)=O)N)C=C1)OC | C23H22N2O6S
